US06787671B2
trans-Stilbene (9 g) was dissolved in DMF (250 mL), and OsO4 (0.2 mL, 2.5% in tBuOH, 0.0002 eq) was added and stirred for five minutes. OXONE (123 g) was then added slowly via a solid addition funnel over 2 hours. The reaction was stirred at room temperature for 6 hours followed by addition of Na2SO3 (54 g) and stirred for an additional hour. The reaction was diluted with Et2O (750 mL) and stirred for 10 min. The solid was filtered off and washed with Et2O (75 mL×3). The organic extract is washed with 1N HCl (200 mL×3) and brine (200 mL) and dried over Na2SO4. The solvent was removed under reduced pressure to obtain the product at 11.60 g and 95% yield. The final product was crystallized from hot chloroform to obtain benzoic acid (10.74 g, 88%).

reactant | trans-Stilbene | 9 g | C1(=CC=CC=C1)\C=C\C1=CC=CC=C1 | C14H12
reactant | OXONE | 123 g | OOS(=O)[O-].[K+]
reactant | Na2SO3 | 54 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 750 mL | CCOCC | C4H10O
catalyst | OsO4 | 0.2 mL, 0.0002 eq | O=[Os](=O)(=O)=O
product | benzoic acid | 10.74 g, 88% | C(C1=CC=CC=C1)(=O)O | C7H6O2
